US09233982B2
Step 2: 2-amino-6,7-dihydrobenzo[b]thiophen-4(5H)-one
2-Nitro-6,7-dihydrobenzo[b]thiophen-4(5H)-one (3.6 g, 18.2 mmol) was dissolved in DMF (50 mL) and stirred under an atmosphere of hydrogen (300 psi) for 18 hr with 10% palladium on carbon. The mixture was filtered through celite and used directly in the next step as a solution in DMF.

reactant | 2-Nitro-6,7-dihydrobenzo[b]thiophen-4(5H)-one | 18.2 mmol, 3.6 g | [N+](=O)([O-])C1=CC2=C(S1)CCCC2=O | C8H7NO3S
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
catalyst | palladium on carbon | [Pd] | Pd
product | 2-amino-6,7-dihydrobenzo[b]thiophen-4(5H)-one | NC1=CC2=C(S1)CCCC2=O | C8H9NOS
